US08426420B2
(ii) 4-{(S)-2-[(5-Benzyloxycarbonylmethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-3-tert-butoxycarbonyl-propionyl}-piperazine-1-carboxylic acid ethyl ester
To a solution of 8.0 g 4-{(S)-3-tert-Butoxycarbonyl-2-[(5-hydroxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]propionyl}-piperazine-1-carboxylic acid ethyl ester in 50 ml DMF were added 2.5 ml benzyl bromoacetate and 10.1 g cesium carbonate. After stirring at RT for 12 h the solution was reduced to a volume of 50 ml, diluted with 400 ml ethyl acetate and extracted with aqueous LiCl (4% w/w) and aqueous NaHCO3. The crude product obtained after evaporation of the solvent was used in the subsequent reaction.

reactant | 4-{(S)-3-tert-Butoxycarbonyl-2-[(5-hydroxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]propionyl}-piperazine-1-carboxylic acid ethyl ester | 8.0 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)O)C1=CC=CC=C1)=O | C25H33N5O7
reactant | benzyl bromoacetate | 2.5 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | cesium carbonate | 10.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 4-{(S)-2-[(5-Benzyloxycarbonylmethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-3-tert-butoxycarbonyl-propionyl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C34H41N5O9
